US04061761
5-Ethyl-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide
5.6 g of 2-bromo-4'-chloro-3'-sulfamoyl-butyrophenone and 1.7 g of 1,3-dimethylthio urea were heated in 50 ml of methanol for 10 minutes to 40° C and stirred for another 2 hours at room temperature. Precipitation followed by adding diisopropyl ether and the oily end product was crystallized with diethyl ether. Colorless solid body: decomposition from 98° C on, γC=N 1620 cm-1.

reactant | 2-bromo-4'-chloro-3'-sulfamoyl-butyrophenone | 5.6 g | BrC(C(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)CC | C10H11BrClNO3S
reactant | 1,3-dimethylthio urea | 1.7 g | CNC(=S)NC | C3H8N2S
solvent | methanol | 50 ml | CO | CH4O
product | 5-Ethyl-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)C1C(N(C(S1)=NC)C)(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | InChI=1S/C13H18ClN3O3S2.BrH/c1-4-11-13(18,17(3)12(16-2)21-11)8-5-6-9(14)10(7-8)22(15,19)20;/h5-7,11,18H,4H2,1-3H3,(H2,15,19,20);1H
